US07026339B2
To a solution of 2-hydroxybenzaldehyde (2.30 g, 18.8 mmol) in DMF (20 mL) is added 1-(chloromethyl)-naphthalene (3.36 mL, 22.6 mmol) and K2CO3 (3.11 g, 22.6 mmol), and the reaction mixture is heated to 100° C. for 12 h. Once complete, the reaction mixture is cooled to room temperature and diluted with water (100 mL) prior to being poured into a separatory funnel containing ethyl acetate (250 mL). The organic layer is separated, washed with brine (2×) and dried over sodium sulfate prior to concentration. The crude product is purified by column chromatography (5% ethyl acetate in hexanes) to afford 2-(1-naphthylmethoxy)benzaldehyde (2.13 g, 43%) as a light yellow oil.

reactant | 2-hydroxybenzaldehyde | 18.8 mmol, 2.30 g | OC1=C(C=O)C=CC=C1 | C7H6O2
reactant | 1-(chloromethyl)-naphthalene | 22.6 mmol, 3.36 mL | ClCC1=CC=CC2=CC=CC=C12 | C11H9Cl
reactant | K2CO3 | 22.6 mmol, 3.11 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 2-(1-naphthylmethoxy)benzaldehyde | 2.13 g, 43% | C1(=CC=CC2=CC=CC=C12)COC1=C(C=O)C=CC=C1 | C18H14O2
